US08497264B2
A vial was charged with 2,5-difluorophenylboronic acid (0.035 g, 0.222 mmol), PdCl2(dppf)-CH2Cl2 adduct (8.65 mg, 10.59 μmol), (S)-3-bromo-7-iodo-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.100 g, 0.212 mmol), and potassium phosphate (0.450 g, 2.118 mmol). Dioxane (2 mL) and water (1 mL) were added, the vial was flushed with argon, sealed and heated to 80° C. 1 hour. The reaction mixture was cooled to rt and bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (7.50 mg, 10.59 μmol) was added, followed by 2-fluoropyridin-4-ylboronic acid (0.045 g, 0.318 mmol). The reaction mixture was again capped under argon and was heated to 80° C. for and additional hour. The reaction mixture was then diluted with 2-MeTHF, dried over MgSO4 and concentrated. Purification of the crude residue by column chromatography [0-100% (95:5 EtOAc/MeOH)/DCM] gave (S)-7-(2,5-difluorophenyl)-3-(2-fluoropyridin-4-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine (0.028 g, 0.059 mmol, 27.9% yield) as a light yellow solid. [M+H]+=475.0

reactant | 2,5-difluorophenylboronic acid | 0.222 mmol, 0.035 g | FC1=C(C=C(C=C1)F)B(O)O | C6H5BF2O2
reactant | (S)-3-bromo-7-iodo-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.212 mmol, 0.100 g | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1[C@@]21COCC(=N1)N)I | C15H11BrIN3O2
reactant | potassium phosphate | 2.118 mmol, 0.450 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-fluoropyridin-4-ylboronic acid | 0.318 mmol, 0.045 g | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
solvent | 2-MeTHF | CC1CCCO1 | C5H10O
catalyst | PdCl2(dppf) CH2Cl2 | 10.59 μmol, 8.65 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 10.59 μmol, 7.50 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | water | 1 mL | O | H2O
solvent | Dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (S)-7-(2,5-difluorophenyl)-3-(2-fluoropyridin-4-yl)-2′,6′-dihydrospiro[chromeno[2,3-b]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.059 mmol, 0.028 g, 27.9% yield | FC1=C(C=C(C=C1)F)C=1C=C2C(=CC1)OC1=NC=C(C=C1[C@]21COCC(=N1)N)C1=CC(=NC=C1)F | C26H17F3N4O2
